US05990101
A 0.046 ml potion of anhydrous hydrazine was added to 10 ml of a dry ethanol solution containing 278.6 mg of 2-phthalimidomethylimidazo[5,1-b]thiazole, and the solution was then heated under reflux for 2 hours. The reaction solution was cooled on ice, and the resulting crystal was removed therefrom by filtration, followed by washing with a small amount of dichloromethane. The filtrate was concentrated under reduced pressure, and to the resulting residue, 15 ml of dichloromethane was added, and the solution was then alkalified with 1N sodium hydroxide. The aqueous layer was extracted with dichloromethane (20 ml×10). The combined organic layer was dried over anhydrous magnesium sulfate and then filtered, and the solvent was then evaporated under reduced pressure to obtain 154.6 mg of 2-aminomethylimidazo[5,1-b]thiazole.

reactant | hydrazine | NN | H4N2
reactant | 2-phthalimidomethylimidazo[5,1-b]thiazole | 278.6 mg | C1(C=2C(C(N1CC1=CN3C(S1)=CN=C3)=O)=CC=CC2)=O | C14H9N3O2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-aminomethylimidazo[5,1-b]thiazole | 154.6 mg | NCC1=CN2C(S1)=CN=C2 | C6H7N3S
